US04117238
400 g of methyl methacrylate (4 mole), 148 g of n-butanol (2 mole), 2.74 g of potassium cyanide (0.5%) and 0.137 g of hydroquinone monomethyl ether (250 ppm) are added to a 1 liter round-bottomed flask. The batch is heated to approximately 75° C. by conducting air through, and at a temperature of 65° C. at the head of the column, the methyl methacrylate/methanol-azeotrope is distilled-off by way of a 1 m vigreux column. After 4 hours, the trans-esterification is finished. After cooling of the flask, the sump is filtered to remove the potassium cyanide, and the filter residue is washed with a little methyl methacrylate. The filtrate is concentrated at 40° C. under a water jet vacuum. There results a residue of n-butyl methacrylate of 280 g = 98.5%. The n-butyl methacrylate thus obtained can be used without any further processing.

reactant | methyl methacrylate | 4 mole, 400 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | n-butanol | 2 mole, 148 g | C(CCC)O | C4H10O
reactant | potassium cyanide | 2.74 g | [C-]#N.[K+]
reactant | hydroquinone monomethyl ether | 0.137 g | COC1=CC=C(O)C=C1 | C7H8O2
reactant | methyl methacrylate methanol | C(C(=C)C)(=O)OC.CO
product | n-butyl methacrylate | C(C(=C)C)(=O)OCCCC | C8H14O2
